* File: G2_NAND2_N3.pex.netlist.pex
* Created: Sun Apr 10 19:03:25 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NAND2_N3_VSS 2 4 6 8 10 20 21 41 45 50 59 66 71 72 Vss
c25 72 Vss 8.04097e-19
c26 71 Vss 0.00222754f
c27 67 Vss 0.00133588f
c28 66 Vss 0.0113624f
c29 59 Vss 0.0053595f
c30 50 Vss 0.00153395f
c31 45 Vss 0.00130895f
c32 41 Vss 0.00965443f
c33 38 Vss 0.0299311f
c34 37 Vss 0.0299311f
c35 32 Vss 0.106916f
c36 27 Vss 0.0688416f
c37 21 Vss 0.0350852f
c38 20 Vss 0.0646396f
c39 10 Vss 0.190769f
c40 8 Vss 0.19123f
c41 6 Vss 0.189919f
c42 4 Vss 0.191018f
r43 71 73 0.652036
r44 71 72 4.33457
r45 64 72 0.652036
r46 64 66 12.5452
r47 63 67 0.655813
r48 63 66 6.50186
r49 50 59 1.16709
r50 50 73 2.16729
r51 45 67 1.82344
r52 41 45 1.16709
r53 33 38 0.494161
r54 32 34 0.652036
r55 32 33 2.9175
r56 29 38 0.128424
r57 28 37 0.494161
r58 27 38 0.494161
r59 27 28 2.8008
r60 24 37 0.128424
r61 23 59 0.0476429
r62 21 23 1.4004
r63 20 37 0.494161
r64 20 23 1.5171
r65 17 21 0.652036
r66 10 34 5.1348
r67 8 29 5.1348
r68 6 17 5.1348
r69 4 24 5.1348
r70 2 41 0.123773
.ends

.subckt PM_G2_NAND2_N3_VDD 2 4 6 15 17 22 27 30 31 33 35 36 37 41 46 48 51 57
+ Vss
c42 57 Vss 0.00431501f
c43 49 Vss 7.68513e-19
c44 48 Vss 0.00721617f
c45 46 Vss 0.00728738f
c46 41 Vss 0.00103469f
c47 37 Vss 0.0066476f
c48 36 Vss 8.606e-19
c49 35 Vss 0.0118736f
c50 33 Vss 0.00172072f
c51 31 Vss 7.81221e-19
c52 30 Vss 0.00275683f
c53 27 Vss 0.00946889f
c54 22 Vss 0.00810168f
c55 17 Vss 0.170588f
c56 15 Vss 0.0352333f
c57 2 Vss 0.220859f
r58 48 51 0.326018
r59 47 49 0.551426
r60 47 48 5.37654
r61 46 49 0.551426
r62 45 46 8.41907
r63 43 64 1.16709
r64 41 49 0.0828784
r65 41 43 1.53169
r66 39 57 1.16709
r67 37 45 0.655813
r68 37 39 4.0845
r69 35 51 0.326018
r70 35 36 15.3377
r71 31 33 1.82344
r72 30 36 0.652036
r73 29 31 0.655813
r74 29 30 5.50157
r75 27 64 0.15
r76 22 33 1.16709
r77 17 57 0.428786
r78 15 17 5.3682
r79 12 15 0.652036
r80 6 27 0.123773
r81 4 22 0.123773
r82 2 12 6.3018
.ends

.subckt PM_G2_NAND2_N3_A 1 2 20 23 28 33 Vss
c18 33 Vss 0.00403439f
c19 28 Vss 0.00239607f
c20 20 Vss 0.0017793f
c21 12 Vss 0.166936f
c22 1 Vss 0.171396f
r23 25 33 1.16709
r24 23 25 3.00086
r25 20 28 1.16709
r26 20 23 2.37568
r27 12 33 0.50025
r28 9 28 0.50025
r29 2 12 4.37625
r30 1 9 4.60965
.ends

.subckt PM_G2_NAND2_N3_Z 2 4 6 18 22 25 28 Vss
c26 25 Vss 0.00178689f
c27 22 Vss 0.0056591f
c28 18 Vss 0.00911019f
c29 6 Vss 0.00143493f
r30 30 39 1.16709
r31 28 30 6.54354
r32 25 28 7.12704
r33 22 39 0.15
r34 18 25 1.16709
r35 6 22 0.123773
r36 4 22 0.123773
r37 2 18 0.123773
.ends

.subckt PM_G2_NAND2_N3_B 2 3 9 10 13 19 Vss
c23 19 Vss 1.07412e-19
c24 13 Vss 0.244723f
c25 10 Vss 0.0357412f
c26 9 Vss 0.288308f
c27 2 Vss 0.328264f
r28 19 22 0.125036
r29 13 22 1.16709
r30 11 13 2.39235
r31 9 11 0.652036
r32 9 10 8.92755
r33 6 10 0.652036
r34 3 13 5.6016
r35 2 6 9.8028
.ends

