* File: G2_NOR2_N2.pex.netlist.pex
* Created: Mon Feb 28 09:43:23 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NOR2_N2_VSS 2 4 6 18 23 28 31 36 41 50 59 60 64 65 70 77 78 80 Vss
c39 78 Vss 3.75522e-19
c40 77 Vss 0.00393043f
c41 72 Vss 0.00270228f
c42 70 Vss 0.00561311f
c43 65 Vss 8.24085e-19
c44 64 Vss 0.0017807f
c45 60 Vss 6.37548e-19
c46 59 Vss 0.00469222f
c47 50 Vss 0.0049931f
c48 41 Vss 7.10513e-22
c49 36 Vss 9.67354e-19
c50 31 Vss 0.00128167f
c51 28 Vss 0.00379689f
c52 23 Vss 0.00389355f
c53 18 Vss 0.089404f
c54 4 Vss 0.134687f
r55 77 80 0.326018
r56 76 77 4.58464
r57 72 76 0.655813
r58 71 78 0.494161
r59 70 80 0.326018
r60 70 71 10.1279
r61 66 78 0.128424
r62 64 78 0.494161
r63 64 65 4.37625
r64 59 65 0.652036
r65 58 60 0.655813
r66 58 59 15.5878
r67 41 72 1.82344
r68 36 50 1.16709
r69 36 66 2.16729
r70 31 60 1.82344
r71 28 41 1.16709
r72 23 31 1.16709
r73 16 50 0.0476429
r74 16 18 2.04225
r75 12 18 0.0685365
r76 6 28 0.185659
r77 4 12 3.8511
r78 2 23 0.185659
.ends

.subckt PM_G2_NOR2_N2_VDD 2 4 6 8 10 27 36 41 45 47 48 52 54 55 58 60 62 64 66
+ 72 78 Vss
c46 78 Vss 0.00511378f
c47 72 Vss 0.00477413f
c48 64 Vss 4.52364e-19
c49 62 Vss 0.00103884f
c50 60 Vss 6.08701e-19
c51 58 Vss 0.00137825f
c52 55 Vss 8.64106e-19
c53 54 Vss 0.00550218f
c54 52 Vss 0.00179763f
c55 49 Vss 0.00174038f
c56 48 Vss 0.00493553f
c57 47 Vss 0.00222713f
c58 45 Vss 0.00953092f
c59 41 Vss 0.00392881f
c60 37 Vss 0.129157f
c61 36 Vss 9.07184e-20
c62 27 Vss 0.035607f
c63 26 Vss 0.102409f
c64 10 Vss 0.13639f
c65 8 Vss 0.134351f
c66 4 Vss 0.13615f
c67 2 Vss 0.137207f
r68 72 75 0.05
r69 62 78 1.16709
r70 60 66 0.326018
r71 60 62 2.16729
r72 58 75 1.16709
r73 56 58 2.20896
r74 54 66 0.326018
r75 54 55 10.1696
r76 50 64 0.0828784
r77 50 52 1.82344
r78 48 56 0.652036
r79 48 49 4.37625
r80 47 55 0.652036
r81 46 64 0.551426
r82 46 47 4.58464
r83 45 64 0.551426
r84 44 49 0.652036
r85 44 45 15.5878
r86 41 52 1.16709
r87 36 72 0.0238214
r88 36 37 2.26917
r89 33 36 2.26917
r90 29 78 0.0476429
r91 27 29 1.5171
r92 26 30 0.652036
r93 26 29 1.4004
r94 23 27 0.652036
r95 20 37 0.00605528
r96 17 33 0.00605528
r97 10 30 3.8511
r98 8 23 3.8511
r99 6 41 0.185659
r100 4 17 3.8511
r101 2 20 3.8511
.ends

.subckt PM_G2_NOR2_N2_B 2 4 10 13 18 21 26 31 Vss
c20 31 Vss 0.00178268f
c21 26 Vss 0.00362926f
c22 18 Vss 0.00103738f
c23 13 Vss 0.112032f
c24 10 Vss 1.01432e-19
c25 2 Vss 0.112208f
r26 23 31 1.16709
r27 21 23 2.04225
r28 18 26 1.16709
r29 18 21 2.79246
r30 13 31 0.50025
r31 10 26 0.50025
r32 4 13 3.09255
r33 2 10 3.09255
.ends

.subckt PM_G2_NOR2_N2_Z 2 4 6 18 22 25 28 Vss
c24 25 Vss 0.00351292f
c25 22 Vss 0.00573209f
c26 18 Vss 0.00386958f
c27 6 Vss 0.00143442f
r28 28 30 4.0845
r29 25 28 6.91864
r30 22 30 1.16709
r31 18 25 1.16709
r32 6 22 0.185659
r33 4 22 0.185659
r34 2 18 0.185659
.ends

.subckt PM_G2_NOR2_N2_A 2 4 10 11 14 18 21 Vss
c17 18 Vss 2.58909e-19
c18 14 Vss 0.170846f
c19 11 Vss 0.0348505f
c20 10 Vss 0.277806f
c21 2 Vss 0.198918f
r22 18 27 1.16709
r23 18 21 0.0416786
r24 14 27 0.05
r25 12 14 1.6338
r26 10 12 0.652036
r27 10 11 8.92755
r28 7 11 0.652036
r29 4 14 4.3179
r30 2 7 5.9517
.ends

