* File: G2_NOR2_N3.pex.netlist.pex
* Created: Mon Feb 28 10:13:32 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_NOR2_N3_VSS 2 4 6 18 23 28 31 36 41 50 59 60 64 65 70 73 74 79 Vss
c39 74 Vss 3.75522e-19
c40 73 Vss 0.0047697f
c41 70 Vss 0.00562567f
c42 65 Vss 8.27694e-19
c43 64 Vss 0.00178035f
c44 60 Vss 6.04131e-19
c45 59 Vss 0.00565031f
c46 50 Vss 0.00520705f
c47 41 Vss 0.00279442f
c48 36 Vss 0.00113197f
c49 31 Vss 0.00124387f
c50 28 Vss 0.00807325f
c51 23 Vss 0.00817292f
c52 18 Vss 0.089128f
c53 4 Vss 0.189873f
r54 73 79 0.326018
r55 72 77 0.14525
r56 72 73 5.50157
r57 71 74 0.494161
r58 70 79 0.326018
r59 70 71 10.1279
r60 66 74 0.128424
r61 64 74 0.494161
r62 64 65 4.37625
r63 59 65 0.652036
r64 58 60 0.655813
r65 58 59 18.3386
r66 41 77 2.334
r67 36 50 1.16709
r68 36 66 2.16729
r69 31 60 1.82344
r70 28 41 1.16709
r71 23 31 1.16709
r72 16 50 0.0476429
r73 16 18 2.04225
r74 12 18 0.0685365
r75 6 28 0.123773
r76 4 12 5.1348
r77 2 23 0.123773
.ends

.subckt PM_G2_NOR2_N3_VDD 2 4 6 8 10 27 36 41 45 47 48 52 54 55 58 60 62 64 66
+ 72 78 Vss
c45 78 Vss 0.00622884f
c46 72 Vss 0.00491473f
c47 64 Vss 4.52364e-19
c48 62 Vss 0.00102348f
c49 60 Vss 6.08701e-19
c50 58 Vss 0.00198853f
c51 55 Vss 8.64913e-19
c52 54 Vss 0.00550278f
c53 52 Vss 0.0017471f
c54 49 Vss 0.0017501f
c55 48 Vss 0.00518267f
c56 47 Vss 0.00321334f
c57 45 Vss 0.0127334f
c58 41 Vss 0.00818763f
c59 37 Vss 0.129193f
c60 36 Vss 7.7089e-20
c61 27 Vss 0.0356247f
c62 26 Vss 0.102427f
c63 10 Vss 0.190932f
c64 8 Vss 0.189362f
c65 4 Vss 0.190692f
c66 2 Vss 0.191746f
r67 72 75 0.05
r68 62 78 1.16709
r69 60 66 0.326018
r70 60 62 2.16729
r71 58 75 1.16709
r72 56 58 2.95918
r73 54 66 0.326018
r74 54 55 10.1696
r75 50 64 0.0828784
r76 50 52 1.82344
r77 48 56 0.652036
r78 48 49 4.37625
r79 47 55 0.652036
r80 46 64 0.551426
r81 46 47 5.50157
r82 45 64 0.551426
r83 44 49 0.652036
r84 44 45 19.0888
r85 41 52 1.16709
r86 36 72 0.0238214
r87 36 37 2.26917
r88 33 36 2.26917
r89 29 78 0.0476429
r90 27 29 1.5171
r91 26 30 0.652036
r92 26 29 1.4004
r93 23 27 0.652036
r94 20 37 0.00605528
r95 17 33 0.00605528
r96 10 30 5.1348
r97 8 23 5.1348
r98 6 41 0.123773
r99 4 17 5.1348
r100 2 20 5.1348
.ends

.subckt PM_G2_NOR2_N3_B 2 4 10 13 18 21 26 31 Vss
c20 31 Vss 0.0033745f
c21 26 Vss 0.00378619f
c22 18 Vss 0.00118409f
c23 13 Vss 0.166574f
c24 10 Vss 7.77222e-20
c25 2 Vss 0.16675f
r26 23 31 1.16709
r27 21 23 2.37568
r28 18 26 1.16709
r29 18 21 2.45904
r30 13 31 0.50025
r31 10 26 0.50025
r32 4 13 4.37625
r33 2 10 4.37625
.ends

.subckt PM_G2_NOR2_N3_Z 2 4 6 18 22 25 28 Vss
c24 25 Vss 0.00353787f
c25 22 Vss 0.0056593f
c26 18 Vss 0.00813452f
c27 6 Vss 0.00143493f
r28 28 30 6.16843
r29 25 28 6.66857
r30 22 30 1.16709
r31 18 25 1.16709
r32 6 22 0.123773
r33 4 22 0.123773
r34 2 18 0.123773
.ends

.subckt PM_G2_NOR2_N3_A 2 4 10 11 14 18 21 Vss
c18 18 Vss 2.27081e-19
c19 14 Vss 0.2392f
c20 11 Vss 0.0348811f
c21 10 Vss 0.282285f
c22 2 Vss 0.269802f
r23 18 27 1.16709
r24 18 21 0.0416786
r25 14 27 0.05
r26 12 14 2.27565
r27 10 12 0.652036
r28 10 11 8.92755
r29 7 11 0.652036
r30 4 14 5.6016
r31 2 7 7.87725
.ends

