************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G2_NOR2_N2
* View Name:     schematic
* Netlisted on:  Feb 28 09:43:16 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G2_NOR2_N2
* View Name:    schematic
************************************************************************

.SUBCKT G2_NOR2_N2 A B Vdd Vss Z
*.PININFO A:I B:I Z:O Vdd:B Vss:B
XI5 Z Vdd A Vdd Vss / TIGFET_PCELL_SP15CP15_N2
XI4 Z Vss B A Vdd / TIGFET_PCELL_SP15CP15_N2
XI3 Z Vdd B Vdd Vss / TIGFET_PCELL_SP15CP15_N2
.ENDS

