* File: G2_OAI21_N2.pex.netlist.pex
* Created: Wed Mar  2 11:29:59 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_OAI21_N2_VSS 2 4 6 8 10 22 29 37 42 45 50 55 64 73 74 78 84 86 91
+ 94 Vss
c51 92 Vss 5.73928e-19
c52 91 Vss 0.00804514f
c53 86 Vss 0.00176984f
c54 84 Vss 0.00284334f
c55 79 Vss 0.00136792f
c56 78 Vss 0.00717474f
c57 74 Vss 6.26507e-19
c58 73 Vss 0.00636709f
c59 64 Vss 0.0055272f
c60 55 Vss 2.73987e-19
c61 50 Vss 0.00176484f
c62 45 Vss 0.00142483f
c63 42 Vss 0.00389683f
c64 37 Vss 0.00480057f
c65 33 Vss 0.0307649f
c66 29 Vss 6.10339e-20
c67 26 Vss 0.101243f
c68 22 Vss 0.0345703f
c69 21 Vss 0.0712517f
c70 10 Vss 0.136616f
c71 8 Vss 0.135636f
c72 4 Vss 0.135245f
r73 91 94 0.326018
r74 90 91 16.0879
r75 86 90 0.655813
r76 85 92 0.494161
r77 84 94 0.326018
r78 84 85 4.33457
r79 80 92 0.128424
r80 78 92 0.494161
r81 78 79 10.1696
r82 73 79 0.652036
r83 72 74 0.655813
r84 72 73 16.0879
r85 55 86 1.82344
r86 50 64 1.16709
r87 50 80 2.16729
r88 45 74 1.82344
r89 42 55 1.16709
r90 37 45 1.16709
r91 29 64 0.238214
r92 27 33 0.494161
r93 27 29 1.5171
r94 26 30 0.652036
r95 26 29 1.4004
r96 23 33 0.128424
r97 21 33 0.494161
r98 21 22 2.8008
r99 18 22 0.652036
r100 10 30 3.8511
r101 8 23 3.8511
r102 6 42 0.185659
r103 4 18 3.8511
r104 2 37 0.185659
.ends

.subckt PM_G2_OAI21_N2_VDD 2 4 6 8 30 35 38 39 41 43 47 49 51 56 59 65 Vss
c49 65 Vss 0.00587512f
c50 57 Vss 5.34798e-19
c51 56 Vss 0.0102152f
c52 55 Vss 0.00177964f
c53 51 Vss 0.00246273f
c54 49 Vss 0.00378116f
c55 47 Vss 0.00135688f
c56 43 Vss 0.00167028f
c57 41 Vss 8.22855e-19
c58 40 Vss 0.00177964f
c59 39 Vss 0.00981195f
c60 38 Vss 0.0104045f
c61 35 Vss 0.0039168f
c62 30 Vss 0.00399277f
c63 25 Vss 0.0856551f
c64 19 Vss 0.0340946f
c65 18 Vss 0.0688517f
c66 6 Vss 0.137594f
c67 2 Vss 0.137999f
r68 55 59 0.326018
r69 55 56 16.0879
r70 51 56 0.655813
r71 51 53 1.82344
r72 50 57 0.494161
r73 49 59 0.326018
r74 49 50 4.37625
r75 47 65 1.16709
r76 45 57 0.128424
r77 45 47 2.16729
r78 41 43 1.82344
r79 39 57 0.494161
r80 39 40 10.1279
r81 38 41 0.655813
r82 37 40 0.652036
r83 37 38 16.0879
r84 35 53 1.16709
r85 30 43 1.16709
r86 25 65 0.238214
r87 23 25 2.04225
r88 20 23 0.0685365
r89 18 23 0.5835
r90 18 19 2.8008
r91 15 19 0.652036
r92 8 35 0.185659
r93 6 20 3.8511
r94 4 30 0.185659
r95 2 15 3.8511
.ends

.subckt PM_G2_OAI21_N2_B 2 4 13 18 21 26 31 Vss
c21 31 Vss 0.00395418f
c22 26 Vss 0.00337806f
c23 18 Vss 6.82306e-19
c24 13 Vss 0.113634f
c25 10 Vss 1.97908e-19
c26 2 Vss 0.112205f
r27 23 31 1.16709
r28 21 23 1.7505
r29 18 26 1.16709
r30 18 21 3.08421
r31 13 31 0.476429
r32 10 26 0.50025
r33 4 13 3.1509
r34 2 10 3.09255
.ends

.subckt PM_G2_OAI21_N2_A 2 4 13 18 21 26 31 36 44 46 Vss
c41 46 Vss 1.69877e-19
c42 36 Vss 0.00272497f
c43 31 Vss 0.00729791f
c44 26 Vss 0.0034552f
c45 21 Vss 0.00215165f
c46 18 Vss 0.0860045f
c47 13 Vss 5.54498e-20
c48 4 Vss 0.112066f
c49 2 Vss 0.138617f
r50 40 46 0.655813
r51 26 36 1.16709
r52 26 46 4.52212
r53 21 31 1.16709
r54 21 44 0.0416786
r55 21 40 10.8364
r56 18 31 0.238214
r57 15 18 1.92555
r58 13 36 0.50025
r59 7 15 0.0685365
r60 4 13 3.09255
r61 2 7 3.8511
.ends

.subckt PM_G2_OAI21_N2_Z 2 4 6 8 23 27 30 33 Vss
c33 30 Vss 0.0014926f
c34 27 Vss 0.00690919f
c35 23 Vss 0.00596354f
c36 8 Vss 0.00143442f
c37 6 Vss 0.00143442f
r38 33 35 4.20954
r39 30 33 6.79361
r40 27 35 1.16709
r41 23 30 1.16709
r42 8 27 0.185659
r43 6 23 0.185659
r44 4 27 0.185659
r45 2 23 0.185659
.ends

.subckt PM_G2_OAI21_N2_C 2 4 6 13 14 17 24 27 30 Vss
c31 27 Vss 4.25339e-19
c32 24 Vss 0.0812712f
c33 17 Vss 0.202681f
c34 14 Vss 0.0348616f
c35 13 Vss 0.246708f
c36 4 Vss 0.235568f
c37 2 Vss 0.235767f
r38 27 30 0.0833571
r39 23 24 2.04225
r40 20 24 0.0685365
r41 17 27 1.16709
r42 15 23 0.0685365
r43 15 17 2.8008
r44 13 23 0.5835
r45 13 14 8.92755
r46 10 14 0.652036
r47 6 17 4.3179
r48 4 20 7.1187
r49 2 10 7.1187
.ends

